US05352684
R. 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-2-[2-(4,4-diphenyl-1-piperidinyl) -1-ethoxy]methyl-6-methyl-4-(3-nitrophenyl)-pyridine hydrochloride
8.5 g (19 mmol) 3-acetyl-5-tert-butoxycarbonyl-2-(2-chloro-1-ethoxy)methoxy-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-pyridine are reacted first with 5.6 g (38 mmol) sodium iodide, as described for starting compound B, and then with 10.3 g (36 mmol) 4,4-diphenylpiperidine hydrochloride. Working up is carried out as described for starting compound B. The crude product is chromatographed with toluene/acetone=9/1. The product thus obtained is taken up in 50 ml diethyl ether. The title compound is precipitated by addition of ethereal hydrochloric acid. Yield: 11 g (84%). M.p. 175°-177° C. (diethyl ether).

reactant | 3-acetyl-5-tert-butoxycarbonyl-2-(2-chloro-1-ethoxy)methoxy-1,4-dihydro-6-methyl-4-(3-nitrophenyl)-pyridine | 19 mmol, 8.5 g | C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C)OCOCCCl | C22H27ClN2O7
reactant | sodium iodide | 38 mmol, 5.6 g | [I-].[Na+]
reactant | 4,4-diphenylpiperidine hydrochloride | 36 mmol, 10.3 g | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-Acetyl-5-tert-butoxycarbonyl-1,4-dihydro-2-[2-(4,4-diphenyl-1-piperidinyl) -1-ethoxy]methyl-6-methyl-4-(3-nitrophenyl)-pyridine hydrochloride | Cl.C(C)(=O)C1=C(NC(=C(C1C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC(C)(C)C)C)COCCN1CCC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C39H45N3O6.ClH/c1-27-34(37(44)48-38(3,4)5)36(29-13-12-18-32(25-29)42(45)46)35(28(2)43)33(40-27)26-47-24-23-41-21-19-39(20-22-41,30-14-8-6-9-15-30)31-16-10-7-11-17-31;/h6-18,25,36,40H,19-24,26H2,1-5H3;1H
